Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Persistent respiratory failure
 
Major Surgical or Invasive Procedure:
Intubation ___ at ___ 
 
History of Present Illness:
___ with a history of COPD, nephrolithiasis admitted with 
pneumonia and acute respiratory failure now s/p lung biopsy with 
DAD and UIP,  being transferred from ___ for 
further evaluation. 

The patient initially presented to OSH with subacute SOB for a 
number of weeks of unclear etiology. On presentation no fever, 
leukocytosis or elevated pro-calcitonin.  CXR showed multifocal 
airspace opacities R>L. He initially underwent tx for CAP with 
azithromycin, CTX and prednisone (unknown dose). Given lack of 
improvement, he underwent TTE which showed severe pulmonary 
hypertension. Additionally, he underwent CTA to evaluate for 
pulmonary embolism, which showed no PE, but was concerning for 
chronic R sided fibrosis, bronchiectasis, and possible 
interstitial changes.  Rheum w/u negative per report save for 
slightly positive ___. 

He underwent VATS with wedge resection for pathologic diagnosis 
on ___. He was not extubated immediately, and broncoscopy 
during this time showed an MRSA in bronchial washings. Thus he 
was initiated on imipenem and linezolid. He was extubated on 
___ but required reintubation on ___ due to tachypnea and 
worsening hypoxia. He was started on pulse dose steroids on ___ 
and continued through the day of transfer (___). Notably, the 
patient has required multiple vasopressors for hypotension 
thought to be related to sedation and MRSA VAP. During his stay 
he also developed new onset atrial fibrillation treated with 
digoxin. He also had a transaminitis of unclear etiology which 
resolved by the time of transfer.  

Finally, on ___, final pathology returned on his lung bx which 
showed diffuse alveolar damage on a background of ususal 
interstitial pneumonia, concerning for underlying IPF. He was 
transferred to ___ for pulmonary evaluation. 

Of note, family meeting held on the day of transfer where the 
patient was made DNR, noting they would not want a trach for 
long-term vent support. Per further discussion on arrival to 
___, family reports wanting all resuscitative measures needed, 
including CPR.

On arrival to the MICU, patient was intubated and 
hemodynamically stable. Had received rocuronium and versed 
during ambulance ride for persistently fighting the vent.
 

 
Past Medical History:
Nephrolithiasis s/p lithotripsy
Chronic back pain
S/P appendectomy

 
Social History:
___
Family History:
No family history of lung or autoimmune diseases. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
================================
VITALS: T 97.9 HR 108 BP 103/70 O2 sat 95%
GENERAL: Obese male, intubated and intermittently agitated 
HEENT: AT/NC, PERRL, anicteric sclera, pink conjunctiva, MMM, 
good dentition  
NECK: nontender supple neck, no LAD, no visible JVD  
CARDIAC: irregular rhythm, S1/S2, no murmurs, gallops, or rubs  
LUNG: diminished but equal breath sounds with rhonchi 
bilaterally, no audible wheezes or crackles 
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: Unable to fully assess

DISCHARGE PHYSCIAL EXAM
=================================
Deceased
 
Pertinent Results:
ADMISSION LABS
=============================
___ 10:59PM BLOOD WBC-21.9* RBC-4.53* Hgb-13.9 Hct-43.0 
MCV-95 MCH-30.7 MCHC-32.3 RDW-14.2 RDWSD-49.2* Plt ___
___ 10:59PM BLOOD Neuts-98* Bands-0 Lymphs-1* Monos-0 Eos-0 
Baso-0 ___ Myelos-1* AbsNeut-21.46* AbsLymp-0.22* 
AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 10:59PM BLOOD ___ PTT-25.8 ___
___ 10:59PM BLOOD Glucose-209* UreaN-31* Creat-0.9 Na-135 
K-4.8 Cl-96 HCO3-27 AnGap-17
___ 10:59PM BLOOD ALT-39 AST-32 LD(LDH)-416* AlkPhos-94 
TotBili-0.6
___ 10:59PM BLOOD Calcium-8.0* Phos-3.3 Mg-2.1
___ 04:36AM BLOOD %HbA1c-6.6* eAG-143*
___ 04:36AM BLOOD Triglyc-199*
___ 11:09PM BLOOD ___ pO2-49* pCO2-63* pH-7.36 
calTCO2-37* Base XS-7
___ 11:09PM BLOOD Lactate-2.6*

MICROBIOLOGY
===============================

___ 2:15 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 CFU/mL. 

___ 2:44 am SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      ENTEROBACTER CLOACAE COMPLEX.    SPARSE GROWTH. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___.  cefepime sensitivity testing confirmed by ___ 
___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER CLOACAE COMPLEX
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       I
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

DISCHARGE LABS
===============
___ 03:19AM BLOOD WBC-10.1* RBC-3.53* Hgb-10.9* Hct-33.4* 
MCV-95 MCH-30.9 MCHC-32.6 RDW-14.6 RDWSD-49.5* Plt ___
___ 03:19AM BLOOD Plt ___
___ 03:19AM BLOOD Glucose-103* UreaN-16 Creat-0.7 Na-138 
K-4.2 Cl-98 HCO3-31 AnGap-13
___ 03:19AM BLOOD Calcium-7.6* Phos-2.4* Mg-2.___ with a history of COPD, nephrolithiasis initially admitted 
to ___ with respiratory failure requiring 
mechanical ventilation with imaging and pathological findings 
concerning for IPF, with a course complicated by likely MRSA VAP 
and persistent respiratory failure s/p failed extubation, 
transferred to ___ for further pulmonary evaluation.  Patient 
was successfully extubated but required increasingly high levels 
of supplemental oxygen for support, despite treatment for 
pneumonia and continued empirical corticosteroids. Goals of care 
conversation had with patient and family and patient was made 
DNR/DNI, and with continued clinical decline, care was 
eventually transitioned to focus on patient comfort (CMO). 

#GOC: No improvement in oxygenation despite HFNC. Patient made 
DNR/DNI and eventually transitioned to CMO. Required morphine 
___ mg Q1H:PRN dyspnea/air hunger. 

#Hypoxemic respiratory failure:
#Diffuse alveolar damage:
#Biopsy findings consistent with IPF:
#MRSA VAP
Biopsy at ___ showed UIP and IPF with a superimposed 
diffuse alveolar damage, possibly secondary to pneumonia vs. IPF 
flare. He received multiple antibiotic courses (including CTX, 
azithro, cefepime, vancomycin, and ciprofloxacin; transferred on 
linezolid and imipenem) and methylprednisolone burst with 
subsequent PO prednisone taper. Repeat CT showed findings 
consistent w/ IPF, UGI. Rheumatolgic work-up negative. Unable to 
wean off of HFNC. 

#Colitis: Seen on CT. Found to be c.diff colitis. Started on PO 
vanc. 

#AF:
New-onset AF after VATS, CHADS2 at least 2. Reported episodes of 
RVR at OSH requiring digoxin loading. Started on metoprolol for 
rate control and lovenox for anticoagulation. 

#COPD: Started on duonebs.

#HTN: Held anti-hypertensives given normotension while 
inpatient. 
 
#Hyperglycemia: No know history of DM; hyperglycemia likely in 
the setting of pulse dose steroids. Hgb 6.6. On ISS while 
inpatient. 

Event Note:
On ___, patient was noted to be increasingly tachypenic and 
dyspneic with hypoxemia to the ___ despite HFNC/BiPAP. Patient 
was DNR/DNI at this time. This was presumed to be due to his 
extensive underlying irreversible lung disease and it was felt 
that there would be little improvement in his respiratory status 
with further interventions. Patient's family was called to the 
bedside and patient was made CMO. He was started on morphine 
drip with boluses for air hunger/dyspnea eventually leading to 
his passing with his family at bedside. 

 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Carvedilol 25 mg PO BID 
2. Lisinopril 30 mg PO DAILY 

 
Discharge Medications:
Deceased 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Hypoxemic respiratory failure 
UIP/IPF
VAP
C. diff colitis 
Atrial fibrillation 
 
Discharge Condition:
Deceased 
 
Discharge Instructions:
N/A
 
Followup Instructions:
___